US03940411
Similarly, 2-propionylhydrazine is reacted with ethyl-1-methyl-5-nitro-2-imidazolecarboximidate to afford 2-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-1-propionylhydrazine (IIIO).

reactant | 2-propionylhydrazine | C(CC)(=O)NN | C3H8N2O
reactant | ethyl-1-methyl-5-nitro-2-imidazolecarboximidate | C(C)OC(=N)C=1N(C(=CN1)[N+](=O)[O-])C | C7H10N4O3
product | 2-(1-methyl-5-nitro-2-imidazolecarboximidoyl)-1-propionylhydrazine | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(CC)=O | C8H12N6O3
